US07504162B2
By using the obtained PhI2Cz, a coupling reaction was performed with carbazole in the similar manner as described in the synthesis of N-ethyl-3,6-di(N-carbazolyl)carbazole to give the compound in the title, N-phenyl-3,6-di(N-carbazolyl)carbazole as a beige solid (yield: 85%). NMR data are shown in FIG. 15 (1H NMR) and FIG. 16 (13C NMR).

reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | N-ethyl-3,6-di(N-carbazolyl)carbazole | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)N1C2=CC=CC=C2C=2C=CC=CC12)N1C2=CC=CC=C2C=2C=CC=CC12 | C38H27N3
product | N-phenyl-3,6-di(N-carbazolyl)carbazole | yield: 85% | C1(=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)N1C2=CC=CC=C2C=2C=CC=CC12)N1C2=CC=CC=C2C=2C=CC=CC12 | C42H27N3
